US06372759B1
To a stirring solution of 2-amino-N-(1-Boc-6-indazolyl)benzamide (1 g, 2.8 mmol) in THF (30 mL) was added 4-t-butylphthalic anhydride (1.2 g, 5.9 mmol) and the solution was heated to reflux. After 72 h, the vessel was cooled and the volume was reduced to about 10 mL in vacuo. The mixture was diluted with diethyl ether (20 mL) and after sonication, a white solid was collected. This solid was processed by methods substatially equivalent to those described in Example 2-F to give 200 mg of N-(6-indazolyl)-2-(5-t-butyl-1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)benzamide.

reactant | 2-amino-N-(1-Boc-6-indazolyl)benzamide | 2.8 mmol, 1 g | NC1=C(C(=O)NC2=CC=C3C=NN(C3=C2)C(=O)OC(C)(C)C)C=CC=C1 | C19H20N4O3
reactant | 4-t-butylphthalic anhydride | 5.9 mmol, 1.2 g | C(C)(C)(C)C=1C=C2C(C(=O)OC2=O)=CC1 | C12H12O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | N-(6-indazolyl)-2-(5-t-butyl-1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)benzamide | 200 mg | N1N=CC2=CC=C(C=C12)NC(C1=C(C=CC=C1)N1C(C2=CC=C(C=C2C1=O)C(C)(C)C)=O)=O | C26H22N4O3
